US04766142
To an ice-cooled solution of β-[N-methyl-4-(N-methyl-4-aminopyrrole-2-carboxamido)pyrrole-2-carboxamido]propionamidine dihydrochloride (0.404 g) in 5 ml of DMF and 320 mg of 2,4,5-trichlorophenyl-N-methyl-N-nitrosocarbamate [prepared according to J. Med. Chem. 25, 178 (1982)], a solution of diisopropylethylamine (0.164 ml) in 8 ml of DMF was added dropwise. The resulting solution was stirred 1 hour at 0° C. The reaction mixture was concentrated under vacuum and the residue was purified by column chromatography to yield 251 mg of β-[N-methyl-4-[N-methyl-4-(3 -methyl-3-nitrosoureido)pyrrole-2-carboxamido]pyrrole-2-carboxamido]propionamidine hydrochloride.

reactant | β-[N-methyl-4-(N-methyl-4-aminopyrrole-2-carboxamido)pyrrole-2-carboxamido]propionamidine dihydrochloride | 0.404 g | Cl.Cl.CN(C(=O)C=1NC=C(C1)N(C(=O)C=1NC=C(C1)N)C)CCC(=N)N
reactant | diisopropylethylamine | 0.164 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2,4,5-trichlorophenyl-N-methyl-N-nitrosocarbamate | 320 mg | ClC1=C(C=C(C(=C1)Cl)Cl)CN(C([O-])=O)N=O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | β-[N-methyl-4-[N-methyl-4-(3 -methyl-3-nitrosoureido)pyrrole-2-carboxamido]pyrrole-2-carboxamido]propionamidine hydrochloride | 251 mg | Cl.CN(C(=O)C=1NC=C(C1)N(C(=O)C=1NC=C(C1)NC(=O)N(N=O)C)C)CCC(=N)N | InChI=1S/C17H23N9O4.ClH/c1-24(5-4-14(18)19)15(27)13-7-11(9-21-13)25(2)16(28)12-6-10(8-20-12)22-17(29)26(3)23-30;/h6-9,20-21H,4-5H2,1-3H3,(H3,18,19)(H,22,29);1H
